US09303023B2
3-(2-Bromoethyl)-5-methoxy-1H-pyrrolo[3,2-b]pyridine
To a solution of 2-(5-methoxy-1H-pyrrolo[3,2-b]pyridin-3-yl)ethanol (353 mg, 1.84 mmol) in DCM (5.0 mL), CBr4 (700 mg, 2.11 mmol) was added, then the reaction mixture was cooled to 0° C. and PPh3 (554 mg, 2.11 mmol) was added. After stirring at rt for 2 h the solvent was removed under reduced pressure. Purification was performed by FC (EtOAc/hex 1:9 to 3:7) to yield the title compound as a brown oil, which was stored in the freezer. LC-MS conditions B: tR=0.45 min, [M+H]+=255.03.

reactant | 2-(5-methoxy-1H-pyrrolo[3,2-b]pyridin-3-yl)ethanol | 1.84 mmol, 353 mg | COC1=CC=C2C(=N1)C(=CN2)CCO | C10H12N2O2
reactant | CBr4 | 2.11 mmol, 700 mg | C(Br)(Br)(Br)Br | CBr4
reactant | PPh3 | 2.11 mmol, 554 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | DCM | 5.0 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-Bromoethyl)-5-methoxy-1H-pyrrolo[3,2-b]pyridine | BrCCC1=CNC=2C1=NC(=CC2)OC | C10H11BrN2O
